US05436240
Potassium hydride (3.3 g of 40% oil suspension, washed with ether to remove oil, 0.03 mol) was added to a stirred solution of diethyl (dipropylamino)-malonate (10.2 g, 0.039 mol) in dry THF (100 mL). After 5 minutes, t-butyl 4-(bromomethyl) -1H-benzimidazole-1-carboxylate (6.22 g, 0.02 mol) was added and the solution was refluxed for 6 hours. The solvent was removed under reduced pressure and the residual oil was partitioned between ethyl acetate and water. After evaporation of the ethyl acetate, the crude product was chromatographed on silica gel using ethyl acetate:hexane as the eluant to give 7.9 g of diethyl {((1,1 -dimethylethoxycarbonyl)-1H-benzimidazole-4-yl)methyl}(dipropyl amino)-propanedioate as an oil.

reactant | Potassium hydride | 0.03 mol, 3.3 g | [H-].[K+]
reactant | diethyl (dipropylamino)-malonate | 0.039 mol, 10.2 g | C(CC)N(CCC)C(C(=O)OCC)C(=O)OCC | C13H25NO4
reactant | t-butyl 4-(bromomethyl) -1H-benzimidazole-1-carboxylate | 0.02 mol, 6.22 g | BrCC1=CC=CC=2N(C=NC21)C(=O)OC(C)(C)C | C13H15BrN2O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | diethyl {((1,1 -dimethylethoxycarbonyl)-1H-benzimidazole-4-yl)methyl}(dipropyl amino)-propanedioate | 7.9 g | CC(C)(OC(=O)N1C=NC2=C1C=CC=C2CC(C(=O)OCC)(C(=O)OCC)N(CCC)CCC)C | C26H39N3O6
